### PR TITLE
Add some lemmas and definitions for listed finite sets

### PR DESCRIPTION
**Pull request by jorge-jbs**
Added:

- Commutativity of `_++_`
- Idempotence of `_++_`
- `map`
- Cartesian product
- Disjoint union

Maybe the definitions should go in `Base`, but I saw that `_++_` is already in `Properties`. Should I move `_++_` and the new definitions to `Base`?

### CODE REVIEW

**Comment by mortberg** [comment]
Yes, please move them. Please also make everything universe polymorphic

**Comment by jorge-jbs** [comment]
I've made everything universe polymorphic and moved everything except the cartesian product, since it depends on associativity and commutativity. Maybe the `Properties` and `Base` distinction doesn't make so much sense in HITs.

**Comment by Saizan** [comment]
I think the point is that `.Base` should only have the type declaration with few exceptions, so it can be imported from modules that only need it in type signatures etc. without creating import cycles.

**Comment by jorge-jbs** [comment]
I don't know why the CI build fails. I'm typechecking locally with Agda's master 🤔

File: Cubical/HITs/ListedFiniteSet/Base.agda [hunk 1]
```diff
@@ -89,3 +91,27 @@ module PropElim {ℓ}
     (λ _ _ _ → isOfHLevel→isOfHLevelDep 1 trunc* _ _ _)
     (λ _ _ → isOfHLevel→isOfHLevelDep 1 trunc* _ _ _)
     λ xs → isProp→isSet (trunc* xs)
+
+_++_ : ∀ (xs ys : LFSet A) → LFSet A
```
Comment (mortberg) [inline Cubical/HITs/ListedFiniteSet/Base.agda:95]: This should have some fixity, maybe same as for the corresponding list operation?

File: Cubical/HITs/ListedFiniteSet/Base.agda [hunk 2]
```diff
@@ -89,3 +91,27 @@ module PropElim {ℓ}
...
+comm x y xs i       ++ ys = comm x y (xs ++ ys) i
+trunc xs zs p q i j ++ ys = trunc
+  (xs ++ ys) (zs ++ ys) (cong (_++ ys) p) (cong (_++ ys) q) i j
+
+map : (A → B) → LFSet A → LFSet B
+map f [] = []
+map f (x ∷ xs) = f x ∷ map f xs
+map f (dup x xs i) = dup (f x) (map f xs) i
+map f (comm x y xs i) = comm (f x) (f y) (map f xs) i
+map f (trunc xs ys p q i j) = trunc
```
Comment (mortberg) [inline Cubical/HITs/ListedFiniteSet/Base.agda:108]: Indentation is weird here, why not put the `trunc` with all of its arguments on the next line instead of splitting it over 6 lines?

Comment (mortberg) [reply Cubical/HITs/ListedFiniteSet/Base.agda:108]: Similar indentation occurs in the Properties file

**Review by mortberg — CHANGES_REQUESTED** [review]
I had two small comments then I would be happy to merge

File: Cubical/HITs/ListedFiniteSet/Base.agda (hunk 2 above)
Comment (jorge-jbs) [reply Cubical/HITs/ListedFiniteSet/Base.agda:108]: In this case it was just because I find it more legible. In the properties file I exceed 100 characters if all the arguments go in the same line (I find 80 characters too long). I have joined some arguments in the same line though.

Agda needs a standard style so bad...

File: Cubical/HITs/ListedFiniteSet/Base.agda (hunk 1 above)
Comment (jorge-jbs) [reply Cubical/HITs/ListedFiniteSet/Base.agda:96]: List has `infixr 5 _++_` and that's what I have added.

File: Cubical/HITs/ListedFiniteSet/Base.agda (hunk 2 above)
Comment (mortberg) [reply Cubical/HITs/ListedFiniteSet/Base.agda]: Ok, it looks better now!

File: Cubical/HITs/ListedFiniteSet/Properties.agda [hunk 3]
```diff
@@ -2,38 +2,103 @@
...
-  = dup x (assoc-++ xs ys zs j) i
-assoc-++ (comm x y xs i) ys zs j
-  = comm x y (assoc-++ xs ys zs j) i
-assoc-++ (trunc xs xs' p q i k) ys zs j
-  = trunc (assoc-++ xs ys zs j) (assoc-++ xs' ys zs j)
-          (cong (\ xs -> assoc-++ xs ys zs j) p) (cong (\ xs -> assoc-++ xs ys zs j) q) i k
+assoc-++ (x ∷ xs) ys zs = cong (x ∷_) (assoc-++ xs ys zs)
+assoc-++ (dup x xs i) ys zs j = dup x (assoc-++ xs ys zs j) i
+assoc-++ (comm x y xs i) ys zs j = comm x y (assoc-++ xs ys zs j) i
+assoc-++ (trunc xs xs' p q i k) ys zs j = trunc
```
Comment (mortberg) [inline Cubical/HITs/ListedFiniteSet/Properties.agda:19]: I think `trunc` should go on the next line with the arguments indented more. It's currently kind of weird and hard to read because the function is further to the right than its arguments.

The same applies to the calls to `PropElim.f` in the functions below

File: Cubical/HITs/ListedFiniteSet/Properties.agda [hunk 4]
```diff
@@ -2,38 +2,103 @@
...
+  (assoc-++ xs ys zs j) (assoc-++ xs' ys zs j)
+  (cong (λ xs → assoc-++ xs ys zs j) p) (cong (λ xs → assoc-++ xs ys zs j) q)
+  i k
+
+comm-++-[] : ∀ (xs : LFSet A) → xs ++ [] ≡ [] ++ xs
+comm-++-[] xs = PropElim.f
```
Comment (mortberg) [inline Cubical/HITs/ListedFiniteSet/Properties.agda:25]: How many of these arguments do you have to give explicitly? It seems to me like some of them could be implicit. If they can always be implicit then `PropElim.f` should have more implicit arguments

**Comment by mortberg** [comment]
Great!
